US05932571
Combine 1-t-butoxycarbonyl-4-(1H-benzimidazol-2-yl)[1,4]diazepane (0.82 g, 2.6 mmol) in dimethylformamide (20 mL). Add sodium hydride (0.15 g, 60% in oil, 3.75 mmol). After about 15 minutes, when the gas evolution ceases, add 4-fluorobenzyl bromide (0.35 mL, 2.81 mmol). Heat to 80° C. After 18 hours, cool the reaction mixture and dilute with ethyl acetate (100 mL) and extract five times with brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give 1-t-butoxycarbonyl-4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)[1,4]diazepane: Rf =0.42 (silica gel, 50% ethyl acetate/hexane).

reactant | 1-t-butoxycarbonyl-4-(1H-benzimidazol-2-yl)[1,4]diazepane | 2.6 mmol, 0.82 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C17H24N4O2
reactant | sodium hydride | 3.75 mmol, 0.15 g | [H-].[Na+]
reactant | 4-fluorobenzyl bromide | 2.81 mmol, 0.35 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-t-butoxycarbonyl-4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C24H29FN4O2
